US04038279
A mixture consisting of 29.5 gm (0.1 mol) of N-[γ-(p-amino-phenyl)-n-propyl]-N'-phenyl-piperazine (m.p. 102° C.), 5.8 gm (0.11 mol) of acetonitrile and 20 ml of glacial acetic acid was refluxed for 20 hours. Thereafter, the solvent was distilled off in vacuo, and the residue was recrystallized from dilute methanol, yielding 28.3 gm (81.3% of theory) of N-[γ-(p-β-cyanoethyl-amino]-phenyl)-n-propyl]-N'-phenyl-piperazine, m.p. 141°-143° C.

reactant | N-[γ-(p-amino-phenyl)-n-propyl]-N'-phenyl-piperazine | 0.1 mol, 29.5 gm | NC1=CC=C(C=C1)CCCN1CCN(CC1)C1=CC=CC=C1 | C19H25N3
reactant | acetonitrile | 0.11 mol, 5.8 gm | C(C)#N | C2H3N
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N'-phenyl-piperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
